US07705034B2
Using general procedure B, benzo[b]thiophene was reacted with benzaldehyde to give benzo[b]thiophen-2-yl-phenyl-methanol as a colorless solid. MS: 223.1 ([M+H—H2O]+).

reactant | benzo[b]thiophene | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | benzo[b]thiophen-2-yl-phenyl-methanol | S1C2=C(C=C1C(O)C1=CC=CC=C1)C=CC=C2 | C15H12OS
